US03996282
Proceeding in a manner similar to that described above in B-8a, 142 parts of N,N-bis(3-formamidopropyl)methylamine and 141 parts of 5-nitro-2-methoxybenzyl chloride were interacted in 115 parts of water to obtain N-methyl-N-(5-nitro-2-methoxybenzyl)-N,N-bis(3-formamidopropyl)ammonium chloride. The product was not isolated but was used directly in solution for reduction of the nitro group.

reactant | N,N-bis(3-formamidopropyl)methylamine | C(=O)NCCCN(CCCNC=O)C | C9H19N3O2
reactant | 5-nitro-2-methoxybenzyl chloride | [N+](=O)([O-])C=1C=CC(=C(CCl)C1)OC | C8H8ClNO3
solvent | water | O | H2O
product | N-methyl-N-(5-nitro-2-methoxybenzyl)-N,N-bis(3-formamidopropyl)ammonium chloride | [Cl-].C[N+](CCCNC=O)(CCCNC=O)CC1=C(C=CC(=C1)[N+](=O)[O-])OC | InChI=1S/C17H26N4O5.ClH/c1-21(9-3-7-18-13-22,10-4-8-19-14-23)12-15-11-16(20(24)25)5-6-17(15)26-2;/h5-6,11,13-14H,3-4,7-10,12H2,1-2H3,(H-,18,19,22,23);1H
